US05976759
Using 9.0 g of poly(p-hydroxystyrene/fumaronitrile) obtained according to (2) above and 2.8 g of ethylvinyl ether, the procedure of (3) of Preparation Example 1 was carried out for reaction and after-treatments to obtain 8.3 g of poly(p-1-ethoxyethoxystyrene/p-hydroxystyrene/fumaronitrile) as white powdery crystal. P-1-ethoxyethoxystyrene unit/p-hydroxystyrene unit molar ratio in the polymer≈3:7 (1H NMR). Mw≈20,000; Mw/Mn=1.85 (GPC with polystyrene calibration).

reactant | p-hydroxystyrene fumaronitrile | OC1=CC=C(C=C)C=C1.C(\C=C\C#N)#N
reactant | ethylvinyl ether | 2.8 g | C(C)OC=C | C4H8O
product | p-1-ethoxyethoxystyrene p-hydroxystyrene fumaronitrile | C(C)OCCOC1=CC=C(C=C)C=C1.OC1=CC=C(C=C)C=C1.C(\C=C\C#N)#N | InChI=1S/C12H16O2.C8H8O.C4H2N2/c1-3-11-5-7-12(8-6-11)14-10-9-13-4-2;1-2-7-3-5-8(9)6-4-7;5-3-1-2-4-6/h3,5-8H,1,4,9-10H2,2H3;2-6,9H,1H2;1-2H/b;;2-1+
